US07098525B2
Synthesis of 4-(1,2,2′-tricyanoethyl)styrene.
To a mixture of 2.00 g 4-(2,2′-dicyanoethenyl)styrene (11 mmol) and 30 mL ethanol was added a solution of 1.45 g potassium cyanide (22 mmol) in 3 mL water. The mixture was stirred at room temperature for 17 hours. 1.8 mL concentrated HCl (22 mmol) was then added and the mixture was concentrated under vacuum. Ten milliliters (10 mL) water was added to the residue, and the mixture was extracted with ethyl acetate. The combined organic layers were concentrated under vacuum, and the product was purified by column chromatography on silica gel using 20% ethyl acetate in hexane. The product recovered from the separation was mixed with 1.5 mL methylene chloride and 10 mL hexane, then filtered. A white solid was obtained (1.009 g, 44%).

reactant | 4-(2,2′-dicyanoethenyl)styrene | 11 mmol, 2.00 g | C(#N)C(=CC1=CC=C(C=C)C=C1)C#N | C12H8N2
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | potassium cyanide | 22 mmol, 1.45 g | [C-]#N.[K+]
reactant | HCl | 22 mmol, 1.8 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
product | 4-(1,2,2′-tricyanoethyl)styrene | C(#N)C(C(C#N)C#N)C1=CC=C(C=C)C=C1 | C13H9N3
